US05256675
To a solution of 2-acetylamino-5-(4-aminophenylthio)thiazole (6.6 g) in a mixture of dichloromethane (300 ml) and N,N-dimethylformamide (50 ml) was dropwise added the solution of 3-chloroperbenzoic acid (5.9 g) in dichloromethane (100 ml) at 5° C. with stirring. The mixture was stirred at 5° C. for 2 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was poured into 10% aqueous sodium bicarbonate. The solution was extracted with a mixture of tetrahydrofuran and ethyl acetate (1:1), washed with saturated aqueous sodium chloride and dried over magnesium sulfate. The solvent was concentrated under reduced pressure to give 2-acetylamino-5-(4-aminophenylsulfinyl)thiazole (5.0 g, yield: 71.1%). mp: 194°-196° C. (dec.)

reactant | 2-acetylamino-5-(4-aminophenylthio)thiazole | 6.6 g | C(C)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)N | C11H11N3OS2
reactant | 3-chloroperbenzoic acid | 5.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-acetylamino-5-(4-aminophenylsulfinyl)thiazole | 5.0 g, yield: 71.1% | C(C)(=O)NC=1SC(=CN1)S(=O)C1=CC=C(C=C1)N | C11H11N3O2S2
